US06140342
cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-7-hydroxy-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester
A solution of cis-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6-methoxy-7-methoxycarbonyloxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (5.0 g, 8.0 mmol) and potassium carbonate (2.2 g, 16 mmol) in methanol (45 mL) was stirred at room temperature. After 12 hours, water (100 mL) was added, and the volatiles were removed in vacuo. The mixture was then extracted with ethyl acetate (3×100 mL), the combined organic extracts were washed with saturated sodium bicarbonate solution (50 mL), dried over sodium sulfate, filtered and concentrated in vacuo to give 4.67 g of crude product. Purification by silica gel chromatography using 0-25% ethyl acetate/hexanes as eluent afforded 2.27 g of the title compound (50%). MS m/z 566 (M+ +2), 583 (M+ +19); 1H NMR (CDCl3) δ 7.07 (C8, s, 1H), 6.36 (C5, s, 1H).

reactant | cis-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6-methoxy-7-methoxycarbonyloxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 8.0 mmol, 5.0 g | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC(=O)OC)OC)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C27H28F6N2O8
reactant | potassium carbonate | 16 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | methanol | 45 mL | CO | CH4O
product | cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-7-hydroxy-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 2.27 g, 50% | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)O)OC)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C25H26F6N2O6
